US06153611
4-(4-Fluorophenyl)-4-hydroxycyclohexanone
A solution of 8-(4-fluorophenyl)-1,4-dioxaspiro[4.5]decan-8-ol (8.6 g, 36 mmole) in a mixture of 50% aqueous methanol and concentrated HCl (3 ml) was stirred for 78 hr. The methanol was removed in vacuo without heating and the residue extracted with ether. The extracts were dried with Na2SO4 and the solvent removed in vacuo to give the product (6.0 g, 86%, mp: 118-119° C.). Calc'd for C12H13FO2 : C, 69.22%; H, 6.30%. Found: C, 69.32%; H, 6.34%.

reactant | 8-(4-fluorophenyl)-1,4-dioxaspiro[4.5]decan-8-ol | 36 mmole, 8.6 g | FC1=CC=C(C=C1)C1(CCC2(OCCO2)CC1)O | C14H17FO3
reactant | HCl | 3 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-(4-Fluorophenyl)-4-hydroxycyclohexanone | 6.0 g, 86% | FC1=CC=C(C=C1)C1(CCC(CC1)=O)O | C12H13FO2
